US07314936B2
To a solution of 2-benzyloxy-propane-1,3-diol (5.0 g, 27.4 mmol) in 5:1 THF-DMF (200 mL) at 0° C. was added NaH (1.5 g, 2.3 eq.) followed by methyl iodide (5.1 mL, 3.0 eq.). The resulting white slurry mixture was stirred at room temperature over weekend. The reaction mixture was quenched with sat. NH4Cl, extracted with EtOAc, dried over Na2SO4, filtered, concentrated and the product was purified by chromatography (50% EtOAc/hexanes) to give (2-methoxy-1-methoxymethyl-2-ethoxymethyl)-benzene (5.6 g, 97%).

reactant | 2-benzyloxy-propane-1,3-diol | 27.4 mmol, 5.0 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | NaH | 1.5 g, 2.3 eq. | [H-].[Na+]
reactant | methyl iodide | 5.1 mL, 3.0 eq. | CI | CH3I
reactant | THF DMF | 200 mL | C1CCOC1.CN(C)C=O
product | (2-methoxy-1-methoxymethyl-2-ethoxymethyl)-benzene | 5.6 g, 97% | COC(CCOC)OCC1=CC=CC=C1 | C12H18O3
